US07214824B2
8(a): 5,5-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-ol
To a methylene chloride (10 ml) solution of 6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalene (Tetrahedron, 1994, 50, 3297) (2.28 g, 12.0 mmol) was added methylene chloride solution of boron tribromide (1M, 24 mL, 24.0 mmol) at 0° C. The mixture was stirred at 0° C. for 2 hours. The reaction mixture was then quenched with methanol and then the solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with ethyl acetate/hexane=⅓ to furnish 2.0 g (96% yield) of the title compound as a white solid.

reactant | 6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalene | 12.0 mmol, 2.28 g | COC=1C=C2CCCC(C2=CC1)(C)C | C13H18O
reactant | boron tribromide | 24.0 mmol, 1M, 24 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-ol | 2.0 g, 96% yield | CC1(C=2C=CC(=CC2CCC1)O)C | C12H16O
